US07173028B2
3-pyrrolidin-1-ylmethyl-piperidine
The educt 3-(1-pyrrolidinylmethyl)-pyridine (24.6 g) is taken up in 250 ml glacial acetic acid and hydrogenated with 2 g of PtO2 under 3 bar H2 at ambient temperature. The solution filtered off is evaporated down, combined with ice and made alkaline with solid KOH while cooling. Afer extracting three times with 250 ml of diethylether the crude product is dried with MgSO4. After the MgSO4 has been filtered off the solvent is eliminated and the amine is distillled in a water jet vacuum at a boiling point of 123° C.

reactant | 3-(1-pyrrolidinylmethyl)-pyridine | 24.6 g | N1(CCCC1)CC=1C=NC=CC1 | C10H14N2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 2 g | O=[Pt]=O
product | 3-pyrrolidin-1-ylmethyl-piperidine | N1(CCCC1)CC1CNCCC1 | C10H20N2
